US08207172B2
Step 7. Preparation of 2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-ol
To a solution of 2-[2-(4-methylpiperazin-1-yl)ethyl]-6-[2-(4-nitrophenyl)ethoxy]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazole (4.12 g, 7.93 mmol) in pyridine (100 mL) was added DBU (4.83 g, 31.72 mmol) and the resulting reaction mixture was stirred at room temperature overnight. Analytical HPLC showed no more starting material present and two new peaks appeared. Solvents were evaporated and the residue was dissolved in water and CH2Cl2. pH of the aqueous layer was adjusted to about 7. The organic phase contains the N-alkylated side product and no desired product. The desired product is in the aqueous phase. After separation of the layers, the pH of the aqueous was further adjusted to about 10 and it was concentrated to dryness. The resulting solid was washed with MeOH, then small amount of water, and air dried to afford a light yellow solid (0.79 g, 27%) as the desired product. The MeOH filtrates were concentrated to give a yellow solid, which was washed with EtOAc, air-dried to give another batch of desired product (1.5 g, 36%) as a light yellow solid. 1H-NMR (D2O) δ 7.82 (s, 1H), 7.56 (s, 1H), 4.26 (t, 2H), 3.30 (broad, 4 h), 3.21 (t, 2H), 3.07 (broad, 4H), 2.99 (t, 2H), 2.78 (s, 3H), 2.67 (t, 2H); LCMS RT=0.30 min; [M+H]+=371.3.

reactant | 2-[2-(4-methylpiperazin-1-yl)ethyl]-6-[2-(4-nitrophenyl)ethoxy]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazole | 7.93 mmol, 4.12 g | CN1CCN(CC1)CCN1N=C2CCC3=C(C2=C1)SC1=C3C(=NC=N1)OCCC1=CC=C(C=C1)[N+](=O)[O-] | C26H29N7O3S
reactant | DBU | 31.72 mmol, 4.83 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-(4-methylpiperazin-1-yl)ethyl]-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-ol | 0.79 g, 27% | CN1CCN(CC1)CCN1N=C2CCC3=C(C2=C1)SC=1C3=C(N=CN1)O | C18H22N6OS
